US05958942
i) Synthesis of 1,2-dihydro-3-methyl-1-[6-[(2,2,2-trifluoro)ethanesulfonamido]hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 676 mg (2.48 mmol) of 1-[6-(amino)hexyl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one and 0.52 ml (3.73 mmol) of triethylamine in 30 ml of methylene chloride was added, while stirring under ice-cooling, 0.55 g (3.01 mmol) of 2,2,2-trifluoroethanesulfonylchloride, and the mixture was stirred for 30 minutes at the same temperature range. The reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate) to give 802 mg of the desired compound (77.2%, pale brown solid).

reactant | 1-[6-(amino)hexyl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 2.48 mmol, 676 mg | NCCCCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C15H20N4O
reactant | triethylamine | 3.73 mmol, 0.52 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trifluoroethanesulfonylchloride | 3.01 mmol, 0.55 g | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-3-methyl-1-[6-[(2,2,2-trifluoro)ethanesulfonamido]hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 802 mg, 77.2% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCCNS(=O)(=O)CC(F)(F)F)=O | C17H21F3N4O3S
